US04385058
A solution of 2-(4-dimethylaminomethyl-2-pyridylmethylthio)ethylamine (0.5 g) and 2-nitroamino-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone (0.7 g) in pyridine (3 ml) was heated under reflux for 3.5 hours and evaporated to dryness. The residue was purified by elution from a column of silica gel with ethyl acetate:ethanol:28% w/w aqueous ammonia (by volume 10:15:2) and recrystallisation from acetonitrile to give 2-[2-(4-dimethylaminomethyl-2-pyridylmethylthio)ethylamino]-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone (0.58 g) m.p. 128°-129.5°.

reactant | 2-(4-dimethylaminomethyl-2-pyridylmethylthio)ethylamine | 0.5 g | CN(C)CC1=CC(=NC=C1)CSCCN | C11H19N3S
reactant | 2-nitroamino-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone | 0.7 g | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)C | C11H11N5O3
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 2-[2-(4-dimethylaminomethyl-2-pyridylmethylthio)ethylamino]-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone | 0.58 g | CN(C)CC1=CC(=NC=C1)CSCCNC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)C | C22H28N6OS
